US05821246
Using an analogous procedure to that described in Example 1, 6-acetoxy-4-chloroquinazoline hydrochloride was reacted with 4-amino-2-chlorophenyl 2-thienyl ketone to give 6-acetoxy-4-[3-chloro-4-(2-thienylcarbonyl)anilino]quinazoline hydrochloride salt in 77% yield, m.p. >250° C.;

reactant | 6-acetoxy-4-chloroquinazoline hydrochloride | Cl.C(C)(=O)OC=1C=C2C(=NC=NC2=CC1)Cl
reactant | 4-amino-2-chlorophenyl 2-thienyl ketone | S1C(=CC=C1)C(=O)C1=C(C=C(C=C1)N)Cl | C11H8ClNOS
product | 6-acetoxy-4-[3-chloro-4-(2-thienylcarbonyl)anilino]quinazoline hydrochloride salt | 77% yield | Cl.C(C)(=O)OC=1C=C2C(=NC=NC2=CC1)NC1=CC(=C(C=C1)C(=O)C=1SC=CC1)Cl | InChI=1S/C21H14ClN3O3S.ClH/c1-12(26)28-14-5-7-18-16(10-14)21(24-11-23-18)25-13-4-6-15(17(22)9-13)20(27)19-3-2-8-29-19;/h2-11H,1H3,(H,23,24,25);1H
